US07504401B2
N-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-acetamide was converted to N-[3-(pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-acetamide, and the triisopropylsilyl group was removed with tetra n-butylammonium fluoride to give N-[3-(1H-indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-acetamide as described in Example 35. 1H NMR (400 MHz, methanol-d4): δ 10.61 (s, 1H), 8.94 (s, 1H), 8.70 (s, 1H), 8.13-8.19 (m, 2H), 7.99 (s, 1H), 7.74 (s, 1H), 7.49 (s, 1H), 7.37 (d, J=8.0 Hz, 1H), 7.25 (s, 1H), 7.13 (t, J=7.7 Hz, 1H), 7.06 (d, J=7.0 Hz, 1H), 6.62 (s, 1H), 2.12 (s, 3H).

reactant | N-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-acetamide | BrC=1C=C(C=C(C1)C(=O)C=1C=NC=CC1)NC(C)=O | C14H11BrN2O2
reactant | N-[3-(pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-acetamide | N1=CC(=CC=C1)C(=O)C=1C=C(C=C(C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)NC(C)=O | C31H37N3O2Si
product | N-[3-(1H-indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-acetamide | N1C=CC2=C(C=CC=C12)C=1C=C(C=C(C1)C(=O)C=1C=NC=CC1)NC(C)=O | C22H17N3O2
